US07345067B2
A solution of ethyl bromoacetate (7.19 ml, 63 mmol) and 4-amino-o-cresol (7.39 g, 60 mmol) in dry acetonitrile (420 ml) was treated at 15° C. with Cs2CO3 (42.03 g, 129 mmol) and stirred at RT for 2 h. Additional ethyl bromoacetate (0.33 ml, 3 mmol) was added and after 4 h, the mixture was filtered, washed with acetonitrile and evaporated. The residue was suspended in CH2Cl2, filtered and evaporated to give 13.34 g (quantitative) of (4-amino-2-methyl-phenoxy)-acetic acid ethyl ester as a green oil, MS: 210 (MH+).

reactant | ethyl bromoacetate | 63 mmol, 7.19 ml | BrCC(=O)OCC | C4H7BrO2
reactant | 4-amino-o-cresol | 60 mmol, 7.39 g | NC=1C=C(C(=CC1)O)C | C7H9NO
reactant | Cs2CO3 | 129 mmol, 42.03 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | acetonitrile | 420 ml | C(C)#N | C2H3N
catalyst | ethyl bromoacetate | 3 mmol, 0.33 ml | BrCC(=O)OCC | C4H7BrO2
product | (4-amino-2-methyl-phenoxy)-acetic acid ethyl ester | 13.34 g | C(C)OC(COC1=C(C=C(C=C1)N)C)=O | C11H15NO3
